US04962161
α,α'-bis-(ortho-propenylphenoxy)-para-xylene is prepared in a procedure similar to Example I, except that 459.3 grams (3.4 moles) of 2-allylphenol is employed along with 300 grams (1.7 mole) of dichloro-para-xylene to yield 597 grams (95% yield) of a white crystalline solid having a melting point of 50°-53° C.

reactant | 2-allylphenol | 3.4 moles, 459.3 grams | C(C=C)C1=C(C=CC=C1)O | C9H10O
reactant | dichloro-para-xylene | 1.7 mole, 300 grams | ClC=1C(=C(C=CC1C)C)Cl | C8H8Cl2
product | α,α'-bis-(ortho-propenylphenoxy)-para-xylene | C(=CC)C1=C(OCC2=CC=C(C=C2)COC2=C(C=CC=C2)C=CC)C=CC=C1 | C26H26O2
